US04399134
8,9-Difluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (5 g) and a solution of 7.5 g of 3-hydroxypiperidine in 50 ml of hexamethylphosphoric triamide were reacted with heating at 120° to 130° C. for 7 hours with stirring. After completion of reaction, hexamethylphosphoric triamide and unreacted 3-hydroxypiperidine were distilled off under reduced pressure. Recrystallization of the residue from dimethylformamide gave 2.5 g of 8-fluoro-9-(3-hydroxy-1-piperidyl)-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid. m.p. 251°-253° C.

reactant | 8,9-Difluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 5 g | FC=1C=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O | C13H9F2NO3
reactant | 3-hydroxypiperidine | 7.5 g | OC1CNCCC1 | C5H11NO
solvent | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 8-fluoro-9-(3-hydroxy-1-piperidyl)-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 2.5 g | FC=1C=C2C(C(=CN3C2=C(C1N1CC(CCC1)O)CC3C)C(=O)O)=O | C18H19FN2O4
